US08455665B2
3-[1-(2,3-Dichlorophenoxy)-3-methylsulfanylpropyl]pyrrolidine
3-(1-Hydroxy-3-methylsulfanylpropyl)pyrrolidine-1-carboxylic acid t-butyl ester (49 mg, 180 mmol) was dissolved in DMF (550 μL). 60% NaH in oil (60:40, NaH:mineral oil, 8.5 mg, 210 μmol) was slowly added, and the mixture was stirred for 15 minutes at room temperature. 1,2-Dichloro-3-fluorobenzene (62 μL, 530 μmol) was added, and the resulting mixture was heated at 90° C. for 24 hours. The reaction was quenched with MeOH, and DMF/MeOH was removed in vacuo. The product was dissolved in 1.25M HCl in EtOH (1.4 mL, 1.8 mmol) and stirred overnight at room temperature. The product was then purified by preparative HPLC to yield the title compound as a mixture of all 4 stereoisomers (R,R, R,S, S,S, and S,R) as mono-TFA salts (20 mg, 100% purity). MS m/z: [M+H]+ calcd for C14H19Cl2NOS, 320.06. found 320.0.

reactant | 3-(1-Hydroxy-3-methylsulfanylpropyl)pyrrolidine-1-carboxylic acid t-butyl ester | 180 mmol, 49 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C(CCSC)O | C13H25NO3S
reactant | NaH | [H-].[Na+]
reactant | 1,2-Dichloro-3-fluorobenzene | 530 μmol, 62 μL | ClC1=C(C(=CC=C1)F)Cl | C6H3Cl2F
reactant | EtOH | 1.8 mmol, 1.4 mL | CCO | C2H6O
solvent | DMF | 550 μL | CN(C)C=O | C3H7NO
solvent | HCl | 1.25M | Cl | ClH
product | 3-[1-(2,3-Dichlorophenoxy)-3-methylsulfanylpropyl]pyrrolidine | ClC1=C(OC(CCSC)C2CNCC2)C=CC=C1Cl | C14H19Cl2NOS
